US07585875B2
Solid aluminum chloride (0.82 g, 2 equivalents) was added to a solution of acetyl chloride (0.24 mL, 1.1 equivalents) in 1 mL of dichloromethane and the solution was stirred at room temperature for 40 minutes. Neat 2-isopropylpyrazolo[1,5-a]pyridine (0.5 g, 1 equivalent) was added dropwise to this solution at room temperature (exotherm was observed), and the resulting solution was stirred at room temperature for 20 hours and worked up with EtOAc and saturated NaHCO3. The crude product was purified by silica gel flash column chromatography to give 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)ethanone (0.29 g, 46% yield) as a solid. Compound 1080.

reactant | aluminum chloride | 0.82 g, 2 equivalents | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.24 mL, 1.1 equivalents | C(C)(=O)Cl | C2H3ClO
reactant | 2-isopropylpyrazolo[1,5-a]pyridine | 0.5 g, 1 equivalent | C(C)(C)C1=NN2C(C=CC=C2)=C1 | C10H12N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)ethanone | 0.29 g, 46% yield | C(C)(C)C1=NN2C(C=CC=C2)=C1C(C)=O | C12H14N2O
